US04476308
A mixture of 3.5 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate and 11.2 g of 1,2-ethylenediamine is left to stand at room temperature for 20 hours. The excess 1,2-ethylenediamine is evaporated in vacuo. The residue is dissolved in 40 ml of hot acetonitrile and stirred at room temperature for 2 hours and then in an ice-bath for 1 hour. By filtration there is isolated N-[2-(amino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide of melting point 110°-112°.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 3.5 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | 1,2-ethylenediamine | 11.2 g | C(CN)N | C2H8N2
product | N-[2-(amino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | NCCNC(CN1C(C(CC1)O)=O)=O | C8H15N3O3
